US05741819
Preparation of 3-[(Phenylsulfonyl)amino]-N-[(4-hydroxy-3-methoxyphenyl)methyl]benzamide (20)
To 139 mg (0.5 mmol) of 3-(phenylsulfonyl)aminobenzoic acid as prepared in Example 9 in 1 mL of N,N-dimethylformamide was added sequentially 1 mL of 0.5M (0.5 mmol) of Castro's reagent (benzotriazole-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate) in N,N-dimethylformamide and then 500 μL of N,N-diisopropylethylamine. After 5 min, 95 mg (0.5 mmol) of 4-hydroxy-3-methoxybenzylamine HCl was added. After 30 min, the reaction mixture was quenched with 7 mL of 2N HCl, extracted into ethyl acetate (2×2 mL), washed with water (3×4 mL) and then sat. NaHCO3 (1×4 mL). The organic phase was passed through a Waters solid phase extraction column (5 g silica gel) onto which was added Na2SO4 to act a drying agent. Elution with ethyl acetate gave the title compound: NMR (DMSO-d6 ; 300 MHz) δ 10.46 (s, 1H), 8.88 (t, 1H), 8.84 (s, 1H), 7.74-7.81 (m, 3H), 7.50-7.70 (m, 6H), 7.30 (t, 1H) 7.22 (d, 1H), 6.87 (s, 1H), 6.69 (t, 2H), 4.31 (d, 2H), 3.73 ppm (s, 3H). Mass spectrum (MALDI-TOF; gentisic acid matrix) cald. for C27H20N2O5S: 435.1 (M+Na). Found: 435.0.

reactant | 3-(phenylsulfonyl)aminobenzoic acid | 0.5 mmol, 139 mg | C1(=CC=CC=C1)S(=O)(=O)NC=1C=C(C(=O)O)C=CC1 | C13H11NO4S
reactant | Castro's reagent | 0.5M | CN(C)[P+](N(C)C)(N(C)C)ON1C2=CC=CC=C2N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 500 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-hydroxy-3-methoxybenzylamine HCl | 0.5 mmol, 95 mg | Cl.OC1=C(C=C(CN)C=C1)OC
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 3-[(Phenylsulfonyl)amino]-N-[(4-hydroxy-3-methoxyphenyl)methyl]benzamide | C1(=CC=CC=C1)S(=O)(=O)NC=1C=C(C(=O)NCC2=CC(=C(C=C2)O)OC)C=CC1 | C21H20N2O5S
